US07323567B2
a) Methyl 6-chloro-2-[(4-methoxybenzyl)amino]-3-nitrobenzoate
A solution of methyl 2,6-dichloro-3-nitrobenzoate (11.9 g, 47.4 mmol), p-methoxybenzylamine (8.13 g, 59.3 mmol; additional amounts of 1.63 g, 11.9 mmol added after 5 and 6.5 h), and Et3N (7.20 g, 71.1 mmol; additional amount of 1.20 g, 11.9 mmol added after 6.5 h) in THF (190 mL) was stirred at room temperature for 15 min then was heated to reflux for 10 h. Water (100 mL) was added to the mixture and most of the THF was removed under reduced pressure. The residue was partitioned between aqueous 1 N HCl solution (350 mL) and EtOAc (500 mL). The organic layer was washed with aqueous 1 N HCl solution (100 mL) and brine (100 mL), then was dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (10-40μ silica gel; hexane:EtOAc 6:1) to give the title compound (13.2 g, 79% yield) as a yellow solid.

reactant | methyl 2,6-dichloro-3-nitrobenzoate | 47.4 mmol, 11.9 g | ClC1=C(C(=O)OC)C(=CC=C1[N+](=O)[O-])Cl | C8H5Cl2NO4
reactant | p-methoxybenzylamine | 59.3 mmol, 8.13 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | Et3N | 71.1 mmol, 7.20 g | CCN(CC)CC | C6H15N
reactant | Water | 100 mL | O | H2O
solvent | THF | 190 mL | C1CCOC1 | C4H8O
product | Methyl 6-chloro-2-[(4-methoxybenzyl)amino]-3-nitrobenzoate | 13.2 g, 79% yield | ClC1=CC=C(C(=C1C(=O)OC)NCC1=CC=C(C=C1)OC)[N+](=O)[O-] | C16H15ClN2O5
